US07825253B2
N5-(3H-Benzoimidazol-5-ylmethyl)-N2-(2-methoxy-benzyl)-quinoline-2,5-diamine
The title compound, MS: m/e=410.1 (M+H+), was prepared from 5-nitro-2-chloroquinoline, 2-methoxybenzylamine and 3H-benzimidazole-5-carbaldehyde as described in example 26.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 2-methoxybenzylamine | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | 3H-benzimidazole-5-carbaldehyde | N1=CNC2=C1C=CC(=C2)C=O | C8H6N2O
product | N5-(3H-Benzoimidazol-5-ylmethyl)-N2-(2-methoxy-benzyl)-quinoline-2,5-diamine | N1=CNC2=C1C=CC(=C2)CNC=2C=1C=CC(=NC1C=CC2)NCC2=C(C=CC=C2)OC | C25H23N5O
